US08614209B2
5-Oxazol-4-yl-thiophene-3-carboxylic acid methyl ester (0.049 g, 0.23 mmol) was suspended in IMS (1 mL), sodium hydroxide (1 M, 0.35 mL) was added and the mixture stirred for 60 hours at room temperature. The mixture was quenched with HCl (1 N, 0.35 mL) and then concentrated, azeotroping twice with methanol to afford 5-oxazol-4-yl-thiophene-3-carboxylic acid as a white solid (0.045 g).

reactant | 5-Oxazol-4-yl-thiophene-3-carboxylic acid methyl ester | 0.23 mmol, 0.049 g | COC(=O)C1=CSC(=C1)C=1N=COC1 | C9H7NO3S
reactant | sodium hydroxide | 1 M, 0.35 mL | [OH-].[Na+]
product | 5-oxazol-4-yl-thiophene-3-carboxylic acid | 0.045 g | O1C=NC(=C1)C1=CC(=CS1)C(=O)O | C8H5NO3S
